US03954764
111.4 G. of 8-chloro-2-methyl-dibenzo[b,f]thiepin-10(11H)-one in 1 l. of absolute benzene are mixed together with 268 ml. of carbethoxypiperazine and within 1 hour at 20°-25° with a solution of 65 ml. of titanium tetrachloride in 500 ml. of absolute benzene. The resulting reaction mixture thereafter is heated under reflux conditions over a period of 20 hours. The reaction mixture is then poured over a mixture of 500 ml. of saturated aqueous sodium bicarbonate solution and 700 ml. of water with strong stirring, subsequently filtered, and washed again with chloroform. After an equilibrium is reached between both phases, the organic phase is dried and evaporated, whereby there is obtained 1-carbethoxy-4-(8-chloro-2-methyl-dibenzo[b,f]thiepin-10-yl)-piperazine as a dark brown viscous oil.

reactant | 8-chloro-2-methyl-dibenzo[b,f]thiepin-10(11H)-one | ClC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)=O)C1 | C15H11ClOS
reactant | carbethoxypiperazine | C(=O)(OCC)N1CCNCC1 | C7H14N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-carbethoxy-4-(8-chloro-2-methyl-dibenzo[b,f]thiepin-10-yl)-piperazine | C(=O)(OCC)N1CCN(CC1)C1=CC2=C(SC3=C1C=C(C=C3)Cl)C=CC(=C2)C | C22H23ClN2O2S
